US07560558B2
Compound 328: 7-Benzyloxy-6-methoxy-4-(6-methyl-2-thiazol-2-yl-pyridin-3-yloxy)-quinoline
N,N-Dimethylformamide (2 ml) was added to 7-benzyloxy-4-(2-iodo-6-methyl-pyridin-3-yloxy)-6-methoxyquinoline (100 mg), tetrakistriphenylphosphine palladium (23 mg), tri-n-butyl-(thiazol-2-yl)-tin (113 mg), and copper(II) oxide (32 mg) under an argon atmosphere, and the mixture was stirred at 100° C. overnight. The reaction solution was cooled to room temperature, water was then added thereto, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using hexane-acetone to give the title compound (43 mg, yield 46%).

reactant | N,N-Dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | 7-benzyloxy-4-(2-iodo-6-methyl-pyridin-3-yloxy)-6-methoxyquinoline | 100 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC(=CC1)C)I)OC | C23H19IN2O3
reactant | tri-n-butyl-(thiazol-2-yl)-tin | 113 mg | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
catalyst | copper(II) oxide | 32 mg | [Cu]=O
solvent | water | O | H2O
product | 7-Benzyloxy-6-methoxy-4-(6-methyl-2-thiazol-2-yl-pyridin-3-yloxy)-quinoline | 43 mg, yield 46% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC(=CC1)C)C=1SC=CN1)OC | C26H21N3O3S
